US04662934
Preparation of 2,4-Dichlorophenoxyethyl 2-[4-(3,5-dichloropyridin-2-yl-oxy)phenoxy]propanoate
The 2-[4-(3,5-dichloropyridin-2-yloxy)phenoxy]propanoic acid chloride (3.12 grams; 0.009 mol); triethylamine (5 ml): 2,4-dichlorophenoxyethethanol (1.94 grams; 0.0094 mol) and toluene (100 ml) were stirred in a glass reaction flask until thin layer chromatographic analysis showed completion of the reaction. This mixture was transferred to a separatory funnel and washed three times with water (70 ml). The washed material was dried and stripped to a yellow/brown gum (4.8 grams) that solidified on standing and was recrystallized from a mixture of methylene chloride and hexane. The first crop (1.5 grams) analyzed by elemental analysis as follows:

reactant | 2-[4-(3,5-dichloropyridin-2-yloxy)phenoxy]propanoic acid chloride | 0.009 mol, 3.12 grams | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(OC(C(=O)Cl)C)C=C1 | C14H10Cl3NO3
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4-Dichlorophenoxyethyl 2-[4-(3,5-dichloropyridin-2-yl-oxy)phenoxy]propanoate | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(OC(C(=O)OCCOC2=C(C=C(C=C2)Cl)Cl)C)C=C1 | C22H17Cl4NO5
